US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine (Compound 47)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(3,5-dimethoxyphenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 94%). MS (ESI) m/z 438 (M+1).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(3,5-dimethoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 94% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C | C23H27N5O4
